US08304419B2
Step B: 5-{[3-(Methylthio)propyl]oxy}-1H-indole-2-carboxylic acid
A methanol solution of 1-(1,1-dimethylethyl)2-ethyl 5-{[3-(methylthio)propyl]oxy}-1H-indole-1,2-dicarboxylate (0.488 g, 1.24 mmol) was treated with 1 N LiOH (4 mL). The reaction mixture turned cloudy, THF was added to redissolve the precipitate and the mixture was heated to 70° C. When no starting material remained as evident by TLC the reaction mixture was partitioned between EtOAc and water. The aqueous layer was separated and acidified with conc. HCl. The aqueous layer was extracted with EtOAc and the organic layer was evaporated to afford the title compound (0.263 g, 80%). 1H NMR (400 MHz, Acetone-d6) δ ppm 10.73 (br. s., 1H), 7.43 (d, 1H), 7.14 (d, 1H), 7.09-7.13 (m, 1H), 6.96 (dd, 1H), 4.09 (t, 2H), 2.68 (t, 2H), 2.08 (s, 3H), 2.04 (t, 2H). LCMS: m/z=264.1 (M−1).

reactant | methanol | CO | CH4O
reactant | 1-(1,1-dimethylethyl)2-ethyl 5-{[3-(methylthio)propyl]oxy}-1H-indole-1,2-dicarboxylate | 1.24 mmol, 0.488 g | CSCCCOC=1C=C2C=C(N(C2=CC1)C(=O)OCCC(C)(C)C)C(=O)[O-]
reactant | LiOH | 1 N, 4 mL | [Li+].[OH-]
solvent | THF | C1CCOC1 | C4H8O
product | 5-{[3-(Methylthio)propyl]oxy}-1H-indole-2-carboxylic acid | 0.263 g, 80% | CSCCCOC=1C=C2C=C(NC2=CC1)C(=O)O | C13H15NO3S
